US05502220
A. 1,1-Diethoxy-3-methyl-2-butene
Under an argon atmosphere, a 250-mL, round-bottomed flask equipped with a stir bar was charged with abs. ethanol (52 mL, 892 mmol, 5.0 eq). The flask was cooled to 4° C. (internal) in an ice bath. Triethyl orthoformate (29.7 mL, 178 mmol, 1.0 eq) was added followed by 3-methyl-2-butenal (17.2 mL, 178 mmol, 1.0 eq). The resulting clear, colorless solution was further cooled to 2° C. (internal). Potassium hydrogen sulfate (1.277 g, 9.38 mmol, 0.05 eq) was then added in one portion, resulting in an immediate exotherm to 10° C. The heterogeneous mixture was allowed to warm to 21° C. (internal) over 45 minutes (within 20 minutes, the mixture became slightly cloudy) and then stirred for an additional 15 minutes. The reaction mixture was then filtered and the remaining solid rinsed with abs. ethanol (5 mL). To the resulting clear, colorless solution was added anhydrous potassium carbonate (2.615 g, 18.92 mmol). The mixture was stirred for one hour before filtering off the potassium carbonate. The solid was rinsed with abs. ethanol (5 mL) and the filtrate was vacuum distilled (172 mm Hg) through a Vigereux column (13.5 cm) to produce 24.14 g (85% yield) of the title compound (boiling point 115°-119° C.).

reactant | ethanol | 892 mmol, 52 mL, 5.0 eq | C(C)O | C2H6O
reactant | Triethyl orthoformate | 178 mmol, 29.7 mL, 1.0 eq | C(OCC)(OCC)OCC | C7H16O3
reactant | 3-methyl-2-butenal | 178 mmol, 17.2 mL, 1.0 eq | CC(=CC=O)C | C5H8O
reactant | potassium carbonate | 18.92 mmol, 2.615 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Potassium hydrogen sulfate | 9.38 mmol, 1.277 g, 0.05 eq | S(=O)(=O)(O)[O-].[K+]
product | 1,1-Diethoxy-3-methyl-2-butene | 24.14 g, 85% yield | C(C)OC(C=C(C)C)OCC | C9H18O2
